US07326788B2
[5-(6-Chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazol-3-yl]-carbamic acid 2-methanesulfonyl-ethyl ester
This was prepared according to Example 64 from 3-(3-amino-isoxazol-5-yl)-6-chloro-4-phenyl-1H-quinolin-2-one and carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 2-methanesulfonyl-ethyl ester. 1H NMR (400 MHz, DMSO-d6) δ 12.62 (s, 1H), 10.78 (s, 1H), 7.66 (dd, 1H), 7.48 (m, 4H), 7.32 (m, 2H), 6.96 (d, 1H), 6.89 (s, 1H), 4.42 (t, 2H), 3.56 (t, 2H), 3.12 (s, 3H). Mass spectrum (ESI, m/z) calcd. for C22H18ClN3O6S 487.0, found 488.0 (M+H).

reactant | 3-(3-amino-isoxazol-5-yl)-6-chloro-4-phenyl-1H-quinolin-2-one | NC1=NOC(=C1)C=1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O | C18H12ClN3O2
reactant | carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 2-methanesulfonyl-ethyl ester | CS(=O)(=O)CCOC(ON1C(CCC1=O)=O)=O | C8H11NO7S
product | [5-(6-Chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazol-3-yl]-carbamic acid 2-methanesulfonyl-ethyl ester | CS(=O)(=O)CCOC(NC1=NOC(=C1)C=1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)=O | C22H18ClN3O6S
